US06337344B1
Allyl-[4-({[1-(3-amidino-benzyl)-5-fluoro-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-dimethyl-ammonium chloride acetic acid salt
This compound was prepared from allyl-[4-({[1-(3-cyano-benzyl)-5-fluoro-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-dimethyl-ammonium bromide (222 mg, 0.406 mmol), ethanol (12 ml), hydrogen chloride, and liquid ammonia analogously to example 19/3. The crude product was purified by chromatography on silica gel with dichloromethane/methanol/acetic acid 3:2:0.05 to 1:4:0.05. Lyophilization gave 131 mg of the desired product (56%). M.p. 133° C. (dec.). MS: 484.3 (M+).

reactant | allyl-[4-({[1-(3-cyano-benzyl)-5-fluoro-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-dimethyl-ammonium bromide | 0.406 mmol, 222 mg | [Br-].C(C=C)[N+](C)(C)C1=CC=C(C=C1)CNC(=O)C=1N(C2=CC=C(C=C2C1)F)CC1=CC(=CC=C1)C#N
reactant | hydrogen chloride | Cl | ClH
reactant | ammonia | N | H3N
reactant | ethanol | 12 ml | C(C)O | C2H6O
product | Allyl-[4-({[1-(3-amidino-benzyl)-5-fluoro-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-dimethyl-ammonium chloride acetic acid salt | 131 mg, 56% | C(C)(=O)O.[Cl-].C(C=C)[N+](C)(C)C1=CC=C(C=C1)CNC(=O)C=1N(C2=CC=C(C=C2C1)F)CC1=CC(=CC=C1)C(N)=N | InChI=1S/C29H30FN5O.C2H4O2.ClH/c1-4-14-35(2,3)25-11-8-20(9-12-25)18-33-29(36)27-17-23-16-24(30)10-13-26(23)34(27)19-21-6-5-7-22(15-21)28(31)32;1-2(3)4;/h4-13,15-17H,1,14,18-19H2,2-3H3,(H3-,31,32,33,36);1H3,(H,3,4);1H
